US07666871B2
5-{4-[5-Methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazol-2-yl]-phenyl}-1H-indole
The title compound is prepared in a manner substantially analogous to Example 45 starting from 5-Indole boronic acid and 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole. MS (m/e): 372.2 (M+1)

reactant | 5-Indole boronic acid | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1CCCC1)C | C16H19BrN2O
product | 5-{4-[5-Methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazol-2-yl]-phenyl}-1H-indole | CC1=C(N=C(O1)C1=CC=C(C=C1)C=1C=C2C=CNC2=CC1)CCN1CCCC1 | C24H25N3O
